US05700819
A solution of adipic acid (10.0 g, 68 mmol) in acetic anhydride (50 ml) was heated to reflux for 3 hours. An excess of acetic anhydride was then distilled off in vacuo leaving adipic anhydride (7.4 g). 2-Amino-3,4,6-trifluorothiophenol (200 mg, 1.1 mmol) was dissolved in NMP (1 ml) under a nitrogen stream. To the resultant solution was gradually added adipic anhydride (143 mg, 1.1 mmol) and the mixture was stirred at 100° C. for 6 hours. After naturally cooling, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was extracted with aqueous sodium bicarbonate. The alkaline phase was acidified with 10% hydrochloric acid and re-extracted with ethyl acetate. The combined organic phases were dried and then evaporated to yield a residue, which was recrystallized from acetonitrile to give 5-(4,5,7-trifluorobenzothiazol-2-yl)pentanoic acid (81 mg, 26%).

reactant | 2-Amino-3,4,6-trifluorothiophenol | 1.1 mmol, 200 mg | NC1=C(C(=CC(=C1F)F)F)S | C6H4F3NS
reactant | adipic anhydride | 1.1 mmol, 143 mg | C1(CCCCC(=O)O1)=O | C6H8O3
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-(4,5,7-trifluorobenzothiazol-2-yl)pentanoic acid | 81 mg, 26% | FC1=C(C=C(C2=C1N=C(S2)CCCCC(=O)O)F)F | C12H10F3NO2S
